US09169254B2
Potassium tert-butoxide (816 mg, 7.28 mmol) was added to a solution of 3-fluoro-4-trifluoromethyl-benzoic acid (682 mg, 3.28 mmol) and benzyl alcohol (471 mg, 4.36 mmol) in DMSO (7.3 ml), and the mixture was stirred at room temperature for 16 hours. The reaction solution was made acidic by adding concentrated hydrochloric acid, and the precipitated insoluble matter was then filtered off. The resulting solid was washed with water and then dried to give 3-benzyloxy-4-trifluoromethyl-benzoic acid as a crude compound.

reactant | Potassium tert-butoxide | 7.28 mmol, 816 mg | CC(C)([O-])C.[K+]
reactant | 3-fluoro-4-trifluoromethyl-benzoic acid | 3.28 mmol, 682 mg | FC=1C=C(C(=O)O)C=CC1C(F)(F)F | C8H4F4O2
reactant | benzyl alcohol | 4.36 mmol, 471 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | 7.3 ml | CS(=O)C | C2H6OS
product | 3-benzyloxy-4-trifluoromethyl-benzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1C(F)(F)F | C15H11F3O3
